US05273975
t-Butyl (6-bromo-1,2,3,4-tetrahydro-8-nitro-3-quinolinyl)carbamate (compound XXXI)
A mixture of 6-bromo-1,2,3,4-tetrahydro-8-nitro-3-quinolinamine (3.45 g, 0.01 mol), di t-butyl dicarbonate (3.0 g, 0.014 mol) and triethylamine (2.0 g, 0.02 mol) in DMF (50 mL) was stirred at room temperature for 1 hour. Water (7 mL) was slowly added to the stirred solution. The precipitate was filtered off and washed with water and air dried to give 3.7 g of bright orange solid, mp 193°-195° C. Anal. Calcd. for C14H18BrN3O4 : C, 45.17; H, 4.87; Br, 21.47; N, 11.29. Found: C, 45.25; H, 4.97; Br, 21.34; N, 11.38.

reactant | 6-bromo-1,2,3,4-tetrahydro-8-nitro-3-quinolinamine | 0.01 mol, 3.45 g | BrC=1C=C2CC(CNC2=C(C1)[N+](=O)[O-])N | C9H10BrN3O2
reactant | di t-butyl dicarbonate | 0.014 mol, 3.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.02 mol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | Water | 7 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | t-Butyl (6-bromo-1,2,3,4-tetrahydro-8-nitro-3-quinolinyl)carbamate | 3.7 g | BrC=1C=C2CC(CNC2=C(C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C14H18BrN3O4
